US07557103B2
A. 2-Methyl-benzo[b]thiophene-7-carboxylic Acid Methyl Ester
A mixture of 7-bromo-2-methyl-benzo[b]thiophene (Acheson, R. M.; Cooper, M. W. J. Chem. Soc., Perkin Trans 11980, 1185), (0.88 g, 3.89 mmol), with Pd(OAc)2 (176.4 mg), dppf (637.2 mg), Et3N (3.0 mL) and CH3OH (17 mL) in DMSO (26 mL) is reacted at 80° C./1100 psi of CO for 24 h. The crude reaction mixture is diluted with EtOAc (100 mL), washed with 0.1 M HCl (3×30 mL); dried with Na2SO4; filtered and concentrated. Purification of the crude material by silica gel chromatography to give the title compound (0.66 g, 3.19 mmol, 82%). 1H NMR (CDCl3): δ 2.63 (s, 3H), 4.02 (s, 3H), 7.04 (q, J=0.9 Hz, 1H), 7.38 (t, J=7.9 Hz, 1H), 7.84 (d, J=8.0 Hz, 1H), 8.01 (dd, J=8.0, 1.3 Hz, 1H) ppm. ES-MS (m/z): calcd for C11H10O2S (M+NH4)+: 224.3. found: 224.1.

reactant | 7-bromo-2-methyl-benzo[b]thiophene | 3.89 mmol, 0.88 g | BrC1=CC=CC2=C1SC(=C2)C | C9H7BrS
reactant | Et3N | 3.0 mL | CCN(CC)CC | C6H15N
reactant | CH3OH | 17 mL | CO | CH4O
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | DMSO | 26 mL | CS(=O)C | C2H6OS
catalyst | Pd(OAc)2 | 176.4 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | dppf | 637.2 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 2-Methyl-benzo[b]thiophene-7-carboxylic Acid Methyl Ester | 3.19 mmol, 0.66 g, 82% | COC(=O)C1=CC=CC2=C1SC(=C2)C | C11H10O2S
